US04622342
A solution of N-[2-(4-methoxyphenyl)ethyl]-2-hydroxy-1-oxo-2-(3-chlorophenyl)ethanamine (2.8 g) in dry tetrahydrofuran (20 ml) was added slowly to a refluxing suspension of lithium aluminium hydride (1.36 g) in tetrahydrofuran (30 ml) at reflux and then heated under reflux for 24 hours. After careful addition of water (1.4 ml), aqueous sodium hydroxide (10%; 1.4 ml) and water (2.8 ml), filtration and evaporation of the filtrate gave the crude product. Recrystallisation from ethyl acetate-hexane gave N-[2-(4-methoxyphenyl)-ethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine, mp 101°-3° C.

reactant | N-[2-(4-methoxyphenyl)ethyl]-2-hydroxy-1-oxo-2-(3-chlorophenyl)ethanamine | 2.8 g | COC1=CC=C(C=C1)CCNC(C(C1=CC(=CC=C1)Cl)O)=O | C17H18ClNO3
reactant | lithium aluminium hydride | 1.36 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.4 ml | O | H2O
reactant | sodium hydroxide | 1.4 ml | [OH-].[Na+]
reactant | water | 2.8 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | N-[2-(4-methoxyphenyl)-ethyl]-2-hydroxy-2-(3-chlorophenyl)ethanamine | COC1=CC=C(C=C1)CCNCC(C1=CC(=CC=C1)Cl)O | C17H20ClNO2
